US04851526
4-[Ethyl(heptyl)amino]-4-oxobutyric acid
In a manner similar to Preparation 4, react ethyl(heptyl)amine with succinic anhydride to obtain the title compound.

reactant | ethyl(heptyl)amine | C(C)NCCCCCCC | C9H21N
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 4-[Ethyl(heptyl)amino]-4-oxobutyric acid | C(C)N(C(CCC(=O)O)=O)CCCCCCC | C13H25NO3
